US08445480B2
Step B. 3-Amino-4-hydroxy-5-propylbenzonitrile
To a solution of 1.78 g of 4-hydroxy-3-nitro-5-[(1E)-prop-1-en-1-yl]benzonitrile in ethyl acetate (10 ml) was added palladium on carbon (100 mg). This mixture was evacuated and flushed with hydrogen (via balloon) 10 times. The reaction was stirred at room temperature for 14 h under hydrogen. The mixture was then filtered through a plug of Celite, eluting with methanol. After concentration of the eluent in vacuo, the residue was further purified by column chromatography on a Biotage Horizon, eluting with 1 column volume of 100% hexanes followed by a gradient of 0-20% ethyl acetate in hexanes over 10 column volumes to provide the title compound (400 mg, 26%). Mass spectrum (ESI) 177.2 (M+1).

reactant | 4-hydroxy-3-nitro-5-[(1E)-prop-1-en-1-yl]benzonitrile | 1.78 g | OC1=C(C=C(C#N)C=C1\C=C\C)[N+](=O)[O-] | C10H8N2O3
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
product | 3-Amino-4-hydroxy-5-propylbenzonitrile | 400 mg, 26% | NC=1C=C(C#N)C=C(C1O)CCC | C10H12N2O
